US06191124B1
Magnesium (0.29 g) in ether was treated with 1-bromo-3-phenylpropane (2.38 g) and reacted for 5 hours. Solid 2,3-Dimethylimidazo[2,1-b]thiazole-5-carboxaldehyde (Formula A-6) (0.72 g) was added and the viscous mixture was reacted for 1.5 hours. The thick suspension was diluted with ether and poured into cold 5% ammonium chloride solution. The mixture was extracted with ethyl acetate, the extract was dried and evaporated to a semi-crystalline residue (1.6 g). The residue, containing unreacted 2,3-Dimethylimidazo[2,1-b]thiazole-5-carboxaldehyde (Formula A-6), was triturated with ether, filtered and the filter cake (0.50 g) was recrystallized from acetonitrile to yield pure 2,3-Dimethyl-α-(3-phenylpropyl)imidazo-[2,1-b]thiazole-5-methanol (Formula A-9) (0.38 g), m.p. 167-169°.

reactant | Magnesium | 0.29 g | [Mg] | Mg
reactant | 1-bromo-3-phenylpropane | 2.38 g | BrCCCC1=CC=CC=C1 | C9H11Br
reactant | 2,3-Dimethylimidazo[2,1-b]thiazole-5-carboxaldehyde | 0.72 g | CC1=C(N2C(S1)=NC=C2C=O)C | C8H8N2OS
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | CCOCC | C4H10O
product | 2,3-Dimethyl-α-(3-phenylpropyl)imidazo-[2,1-b]thiazole-5-methanol | 0.38 g | CC1=C(N2C(S1)=NC=C2C(O)CCCC2=CC=CC=C2)C | C17H20N2OS
